US07598257B2
Step 3. 4-(2-Bromo-1,3-thiazol-5-yl)-7H-pyrrolo[2,3-d]pyrimidine
A solution of 4-(2-bromo-1,3-thiazol-5-yl)-7-[2-(trimethylsilyl)ethoxy]methyl-7H-pyrrolo-[2,3-d]pyrimidine (370 mg, 0.90 mmol) in DCM (5.0 mL) and TFA (1.0 mL) was stirred at room temperature for 7 hours. The mixture was then concentrated, re-dissolved in methanol (2 mL), and ethylenediamine (0.5 mL) was added. The mixture was stirred for 6 hours at room temperature. The mixture was diluted with DCM (10 mL), and the precipitate was isolated by filtration and washed with a small amount of DCM to afford desired product (182 mg, 72%).

reactant | 4-(2-bromo-1,3-thiazol-5-yl)-7-[2-(trimethylsilyl)ethoxy]methyl-7H-pyrrolo-[2,3-d]pyrimidine | 0.90 mmol, 370 mg | BrC=1SC(=CN1)C=1C2=C(N=CN1)N(C=C2)COCC[Si](C)(C)C | C15H19BrN4OSSi
solvent | DCM | 5.0 mL | C(Cl)Cl | CH2Cl2
solvent | TFA | 1.0 mL | C(=O)(C(F)(F)F)O | C2HF3O2
product | 4-(2-Bromo-1,3-thiazol-5-yl)-7H-pyrrolo[2,3-d]pyrimidine | 182 mg, 72% | BrC=1SC(=CN1)C=1C2=C(N=CN1)NC=C2 | C9H5BrN4S
